US04358588
400 ml of dichloromethane and 45.3 ml (327 mmol) of triethylamine were added to 35.0 g of 7-ADCA (163 mmol) and 41.5 ml (327 mmol) of trimethylchlorosilane were added dropwise over a few minutes without cooling while the temperature raised to 38° C. After refluxing for one hour at 38° to 40° C. the reaction mixture was cooled to -30° C. and then 82.2 g of cefadroxil-DMF solvate were obtained by following the same additional steps B and C of Example 3 for a yield of 98.8%. The structure was confirmed by IR and PMR spectra, indicating a high purity of the obtained product. Using the same process of Step D of Example 3, the cefadroxil-DMF solvate was converted into 41.5 g of cefadroxil-monohydrate. The structure was confirmed by IR and PMR spectra which indicated a high purity of the said product. According to a Karl Fisher test, the moisture content seemed to be 5.5%. From the mother liquor, an additional 23 g of DMF solvate could be obtained for an overall yield of 89.5% of cefadroxil monohydrate based on the starting 7-ADCA.

reactant | cefadroxil DMF | CC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C=3C=CC(=CC3)O)N)SC1)C(=O)O.CN(C)C=O
solvent | DMF | 23 g | CN(C)C=O | C3H7NO
product | cefadroxil monohydrate | yield of 89.5% | CC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C3=CC=C(C=C3)O)N)SC1)C(=O)O.O | InChI=1S/C16H17N3O5S.H2O/c1-7-6-25-15-11(14(22)19(15)12(7)16(23)24)18-13(21)10(17)8-2-4-9(20)5-3-8;/h2-5,10-11,15,20H,6,17H2,1H3,(H,18,21)(H,23,24);1H2/t10-,11-,15-;/m1./s1
